US08648068B2
100.2 4-{4-Fluoro-2-[(R)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid
4-{4-Fluoro-2-[(R)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (150 mg) was dissolved in methanol (5 ml) and NaOH (1M; 1.9 ml) was added. The reaction was stirred over the weekend. The organic solvent was evaporated and the residue was neutralised with HCl. The resultant precipitate was filtered and dried.

reactant | 4-{4-Fluoro-2-[(R)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 150 mg | C(C)OC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@H]2COCC2)S1)C | C20H20FN3O4S
reactant | NaOH | 1M, 1.9 ml | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 4-{4-Fluoro-2-[(R)-(tetrahydro-furan-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@H]2COCC2 | C18H16FN3O4S
